US06165944
100 g (0.4 mol) of 2-chloro-3-methyl-4-methylsulfonylbenzoic acid were dissolved in 1 l of methanol, and hydrogen chloride gas was introduced at reflux temperature for 5 hours. The mixture was subsequently concentrated. 88.5 g (84% of theory) of methyl 2-chloro-3-methyl-4-methylsulfonylbenzoate were obtained.

reactant | 2-chloro-3-methyl-4-methylsulfonylbenzoic acid | 0.4 mol, 100 g | ClC1=C(C(=O)O)C=CC(=C1C)S(=O)(=O)C | C9H9ClO4S
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 1 l | CO | CH4O
product | methyl 2-chloro-3-methyl-4-methylsulfonylbenzoate | 88.5 g, 84% | ClC1=C(C(=O)OC)C=CC(=C1C)S(=O)(=O)C | C10H11ClO4S
